Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11],-4.23244040809
[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:3]([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2],7.15468160479
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.55921758317
[C:1]#[C:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8][H:9]>>[C:1]#[C:2][C:4]([H:5])[C:6]([H:7])=[C:8][H:9].[C:3],6.50132283382
[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11].[H:12],4.5251016686800005
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12]1>>[H:1][C:2]([O:3][C:5]([H:6])[H:7])[O:12][C:9][C:4]([H:8])([H:10])[H:11],3.00854552468
[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.48806705478
[H:1][O:2][C:3]([H:4])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-4.39350040193
[O:1]=[C:2][C:7]([H:8])([H:9])[C:10][H:11].[O:3]=[C:4]([H:5])[H:6]>>[O:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10][H:11],-1.26387584308
[H:1][O:2][C:3](/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6][H:7])[C:10]([H:11])([H:12])[H:13].[O:8][H:9],6.3477434776
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11],1.87843102874
[C:1]#[C:2][O:3][C:4]([H:5])=[C:6][H:7].[O:8][H:9]>>[C:1]#[C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-6.16686408997
[H:1][C:2][O:3][C:4](=[C:5]=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:6]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-3.08236675321
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:6]([H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[H:5],2.10584277013
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17]>>[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:6],1.99150513832
[C:6]([H:7])[H:8].[H:1][C:2][C:4]([H:3])([H:5])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])/[C:9]=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-8.66688329878
[H:1][C:2].[O:3]=[C:4]([O:5][H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3]/[C:4]([O:5][H:6])=[C:7](/[H:8])[C:9]([H:10])[H:11],-2.46273404709
[C:10]([H:11])([H:12])=[C:13][H:14].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:15]([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])=[C:15]([H:16])[H:17],-4.442122873480001
[C:1]=[O:2].[C:3]#[C:4]>>[C:1][O:2][C:3]#[C:4],-0.32047174753
[H:1][C:2]([H:3])=[C:4]([H:5])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-1.52580567875
[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])[C:9]([H:10])([C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18].[H:8],4.23766983912
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8].[O:9]=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-0.586518044569
[H:1][O:2][C@@:3]1([H:4])[C:5]([H:6])[O:7][C:8]1([H:9])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])[H:10],0.4089908450900001
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3](=[C:4]\[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:5],4.81278558598
[H:5].[O:1][C:2]#[C:3][C:4][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]=[C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-2.81846170412
[H:14].[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2][C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.57738931244
[C:1]=[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[H:8]>>[C:1].[C:2]([O:3][O:4])[C:5]([H:6])([H:7])[H:8],5.678606698489999
[O:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:5]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[C:2][O:3][H:4],4.66859190582
